US07439237B2
(1a) (E)-2-acetylamino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-acrylic Acid
A mixture of 50.0 g (224 mmol) 4-amino-3-chloro-5-trifluoromethyl-benzaldehyde, 39.3 g (335 mmol) N-acetylglycine, 27.5 g (335 mmol) sodium acetate and 200 ml acetic anhydride was stirred for 2 hours in an oil bath at an oil bath temperature of 128° C. After cooling to an oil bath temperature of 90° C. 100 ml of water were added dropwise and the resulting suspension was added to a mixture of 1000 ml of water and 500 ml of toluene. The precipitate formed was suction filtered, washed with 300 ml of toluene and 500 ml of water and dried overnight at 60° C. in the circulating air dryer.

reactant | 4-amino-3-chloro-5-trifluoromethyl-benzaldehyde | 224 mmol, 50.0 g | NC1=C(C=C(C=O)C=C1C(F)(F)F)Cl | C8H5ClF3NO
reactant | N-acetylglycine | 335 mmol, 39.3 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | sodium acetate | 335 mmol, 27.5 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 200 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 1000 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | (E)-2-acetylamino-3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-acrylic Acid | C(C)(=O)N\C(\C(=O)O)=C\C1=CC(=C(C(=C1)C(F)(F)F)N)Cl | C12H10ClF3N2O3
